US09102688B2
General Procedure 104: 8-Nitro-3H-quinazolin-4-one (Intermediate 476)
Formamide (17.1 g, 380 mmol) was added to a solution of 2-amino-3-nitrobenzoic acid (2.0 g, 11 mmol) in methoxy ethanol (5 ml) and the reaction was heated at 200 C in a sealed tube for 17 h. After cooling, the mixture was concentrated in vacuo. The residue was quenched with sat. aq. NaHCO3 solution and the aqueous phase was extracted with EtOAc (100 ml, ×2). The combined organic phases were dried (Na2SO4) and concentrated in vacuo. The crude residue was purified by column chromatography with DCM as the eluent to give the title compound (300 mg, 14%).

reactant | Formamide | 380 mmol, 17.1 g | C(=O)N | CH3NO
reactant | 2-amino-3-nitrobenzoic acid | 11 mmol, 2.0 g | NC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H6N2O4
solvent | methoxy ethanol | 5 ml | COC(C)O | C3H8O2
product | 8-Nitro-3H-quinazolin-4-one | 300 mg, 14% | [N+](=O)([O-])C=1C=CC=C2C(NC=NC12)=O | C8H5N3O3
